US05610144
By proceeding in a fashion similar to that described in Example 1, but starting from 1.2 g of (2RS,5SR)-N-methyl-N-phenyl-5-phenylprolinamide, 0.94 g of 2-[3-(3-methylphenyl)ureido]acetic acid in suspension in 25 cm3 of 1,2-dichloroethane and 0.33 cm3 of sulphinyl chloride, after recrystallization in acetonitrile, 1 g of (2RS,5SR)-N-methyl-1-[3-(3-methylphenyl)ureidoacetyl]-N-phenyl-5-phenylprolinamide, melting at 210° C., is obtained.

reactant | (2RS,5SR)-N-methyl-N-phenyl-5-phenylprolinamide | 1.2 g | CN(C(C1NC(CC1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C18H20N2O
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 0.94 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
solvent | 1,2-dichloroethane | 25 cm3 | ClCCCl | C2H4Cl2
product | (2RS,5SR)-N-methyl-1-[3-(3-methylphenyl)ureidoacetyl]-N-phenyl-5-phenylprolinamide | 1 g | CN(C(C1N(C(CC1)C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C)=O)=O)C1=CC=CC=C1 | C28H30N4O3
